subckt sky130_fd_pr__esd_nfet_g5v0d10v5 (d g s b)
parameters mult=1
parameters l=1 w=1 nf=1 ad=0 as=0 pd=0 ps=0 nrd=0.14 / w nrs=0.14 / w sa=0 sb=0 sd=0 swx_nrds=89.1 * nf / w + 443.5 swx_vth=sw_vth0_sky130_fd_pr__nfet_g5v0d10v5 + sw_mm_vth0_sky130_fd_pr__nfet_g5v0d10v5 * mismatch_factor * mc_mm_switch * 0 / sqrt(l * w * mult) + sw_vth0_sky130_fd_pr__nfet_g5v0d10v5_mc sky130_fd_pr__esd_nfet_g5v0d10v5_nfactor_diff_2=0.23391 sky130_fd_pr__esd_nfet_g5v0d10v5_k2_diff_2=0.010304 sky130_fd_pr__esd_nfet_g5v0d10v5_u0_diff_2=0.0012741 sky130_fd_pr__esd_nfet_g5v0d10v5_vth0_diff_2=0.013326 sky130_fd_pr__esd_nfet_g5v0d10v5_vsat_diff_2=-43.451 sky130_fd_pr__esd_nfet_g5v0d10v5_ub_diff_2=3.291e-19 sky130_fd_pr__esd_nfet_g5v0d10v5_ua_diff_2=-7.333e-12
Msky130_fd_pr__esd_nfet_g5v0d10v5 (d g s b) m_sky130_fd_pr__esd_nfet_g5v0d10v5_model l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd nf=nf delvto=-0.006 + 0.02 * (1 / l - 1 / 0.55) + swx_vth * 1.35
@if l*$scale >= 5.45e-7 && l*$scale < 1.05e-6 && w*$scale >= 1.7495e-5 && w*$scale < 0.000105
    model m_sky130_fd_pr__esd_nfet_g5v0d10v5_model sp_bsim4v8      tnom=30  toxm=1.16e-008 xj=1.5e-007 lln=1 lwn=1 wln=1 wwn=1 lint=3.6e-008 - sw_polycd ll=0 lw=0 lwl=0 wint=-5.8413e-010 + sw_activecd wl=0 ww=0 wwl=0 xl=0 xw=0 mobmod=0 binunit=2 dwg=0 dwb=3.3727471e-012 igcmod=0 igbmod=0 rgatemod=0 rbodymod=1 trnqsmod=0 acnqsmod=0 fnoimod=1 tnoimod=1 permod=1 geomod=0 rdsmod=0 tempmod=0 lintnoi=0.0 vfbsdoff=0 lambda=0 vtl=0 lc=5e-009 xn=3 rnoia=0.577 rnoib=0.5164 tnoia=1.5 tnoib=3.5 epsrox=3.9 toxe=1.16e-008 dtox=0 ndep=1.7e+017 nsd=1e+020 rshg=0.1 rsh=swx_nrds vth0=0.814 + sky130_fd_pr__esd_nfet_g5v0d10v5_vth0_diff_2 k1=0.76281 k2=-0.081731 + sky130_fd_pr__esd_nfet_g5v0d10v5_k2_diff_2 k3=0 dvt0=0 dvt1=0.5 dvt2=-0.001152 dvt0w=0 dvt1w=5215200 dvt2w=-0.036016 w0=0 k3b=0 phin=0 lpe0=0 lpeb=0 vbm=-3 dvtp0=0 dvtp1=0 vsat=107440 + sky130_fd_pr__esd_nfet_g5v0d10v5_vsat_diff_2 ua=1.3637e-009 + sky130_fd_pr__esd_nfet_g5v0d10v5_ua_diff_2 ub=1.4129e-018 + sky130_fd_pr__esd_nfet_g5v0d10v5_ub_diff_2 uc=4.4957e-011 rdsw=566.95 prwb=0.015804 prwg=5.4e-013 wr=1 u0=0.066871 + sky130_fd_pr__esd_nfet_g5v0d10v5_u0_diff_2 a0=0.1054 keta=-0.057372 a1=0 a2=0.65972622 ags=0.48 b0=0 b1=0 eu=1.67 rdswmin=0 rdw=0 rdwmin=0 rsw=0 rswmin=0 voff=0 nfactor=0.114 + sky130_fd_pr__esd_nfet_g5v0d10v5_nfactor_diff_2 up=0.0 ud=0.0 lp=1.0 tvfbsdoff=0.0 tvoff=0 cit=-0.0007128 cdsc=0 cdscb=0 cdscd=4e-012 eta0=0.21835 etab=-0.0031079 dsub=0.5 voffl=-4.2579486e-007 minv=0 pclm=0.23915 pdiblc1=0.09332 pdiblc2=0 pdiblcb=-0.26831 drout=0.2822 pscbe1=5.088e+008 pscbe2=2e-008 pvag=1.9901676 delta=0.0445 alpha0=2.6845e-005 alpha1=0.37039 beta0=39.827 fprout=10.125 pdits=0 pditsl=0 pditsd=0 agidl=5.4829e-007 bgidl=2.4214e+009 cgidl=10120 egidl=0.8 aigbacc=1 bigbacc=0 cigbacc=0 nigbacc=1 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=3 aigc=0.43 bigc=0.054 cigc=0.075 nigc=1 aigsd=0.43 bigsd=0.054 cigsd=0.075 dlcig=0 poxedge=1 pigcd=1 ntox=1 toxref=1.16e-008 kt1=-0.34313 kt2=-0.015814 at=38574 ute=-1.4571 ua1=3.4582e-009 ub1=-3.4538e-018 uc1=4.7889e-011 kt1l=0 prt=0 xrcrg1=12 xrcrg2=1 rbpb=50 rbpd=50 rbps=50 rbdb=50 rbsb=50 gbmin=1e-012 noia=2.6e+41 noib=0.0 noic=0.0 em=4.1000000E+07 af=1 ef=0.89 kf=0 ntnoi=1 dmcg=0 dmcgt=0 dmdg=0 xgw=0 xgl=0 ngcon=1 diomod=1 njs=1.0773 jss=0.000375 jsws=5.84e-11 xtis=2 bvs=12.636 xjbvs=1 ijthsrev=0.1 ijthsfwd=0.1 tpb=0.001344 tpbsw=0.00099005 tpbswg=0 tcj=0.00067434 tcjsw=0.0002493 tcjswg=0 cgdo=3.0674e-010 / sw_func_tox_hv_ratio cgso=3.0674e-010 / sw_func_tox_hv_ratio cgbo=0 capmod=2 xpart=0 cgsl=5e-011 / sw_func_tox_hv_ratio cgdl=5e-011 / sw_func_tox_hv_ratio cf=0 clc=1e-007 cle=0.6 dlc=6.5995e-008 - sw_polycd dwc=sw_activecd vfbcv=-1 acde=0.4176 moin=15 noff=4 voffcv=-0.4104 ngate=1e+023 lwc=0 llc=0 lwlc=0 wlc=0 wwc=0 wwlc=0 ckappas=0.6 cjs=0.0008512 * sw_func_nsd_pw_cj mjs=0.295 pbs=0.72468 cjsws=8.5204e-011 * sw_func_nsd_pw_cj mjsws=0.037586 pbsws=0.29067 cjswgs=5.4e-011 * sw_func_nsd_pw_cj mjswgs=0.78692 pbswgs=0.54958 type=1
@end

ends // sky130_fd_pr__esd_nfet_g5v0d10v5
