subckt sky130_fd_pr__esd_pfet_g5v0d10v5 (d g s b)
parameters mult=1
parameters l=1 w=1 nf=1 ad=0 as=0 pd=0 ps=0 nrd=0.14 / w nrs=0.14 / w sa=0 sb=0 sd=0 swx_nrds=361 * nf / w + 1489 sky130_fd_pr__esd_pfet_g5v0d10v5_voff_diff_5=0.022334 sky130_fd_pr__esd_pfet_g5v0d10v5_k2_diff_5=0.0026099 sky130_fd_pr__esd_pfet_g5v0d10v5_u0_diff_5=0.0013654 sky130_fd_pr__esd_pfet_g5v0d10v5_ua_diff_5=1.3711e-11 sky130_fd_pr__esd_pfet_g5v0d10v5_vsat_diff_5=-2378.6 sky130_fd_pr__esd_pfet_g5v0d10v5_nfactor_diff_5=-0.060725 sky130_fd_pr__esd_pfet_g5v0d10v5_ub_diff_5=3.6247e-19
Msky130_fd_pr__esd_pfet_g5v0d10v5 (d g s b) m_sky130_fd_pr__esd_pfet_g5v0d10v5_model l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd nf=nf delvto=0.004 + sw_vth0_sky130_fd_pr__pfet_g5v0d10v5 * 1.25 + sw_vth0_sky130_fd_pr__pfet_g5v0d10v5_mc * 1.25 + sw_mm_vth0_sky130_fd_pr__pfet_g5v0d10v5 * mismatch_factor * mc_mm_switch * 0 / sqrt(l * w * mult)
@if l*$scale >= 5.45e-7 && l*$scale < 5.55e-7 && w*$scale >= 1.4495e-5 && w*$scale < 0.00105
    model m_sky130_fd_pr__esd_pfet_g5v0d10v5_model sp_bsim4v8      tnom=30  toxm=1.175e-008 xj=1.5e-007 lln=1 lwn=1 wln=1 wwn=1 lint=1e-008 - sw_polycd ll=0 lw=0 lwl=0 wint=sw_activecd wl=0 ww=0 wwl=0 xl=0 xw=0 mobmod=0 binunit=2 dwg=-1.53e-008 dwb=-1e-008 igcmod=0 igbmod=0 rgatemod=0 rbodymod=1 trnqsmod=0 acnqsmod=0 fnoimod=1 tnoimod=1 permod=1 geomod=0 rdsmod=0 tempmod=0 lintnoi=0 vfbsdoff=0 lambda=0 vtl=200000 lc=5e-009 xn=3 rnoia=0.577 rnoib=0.37 tnoia=1.5 tnoib=3.5 epsrox=3.9 toxe=1.175e-008 dtox=0 ndep=1.7e+017 nsd=1e+020 rshg=0.1 rsh=swx_nrds vth0=-1.01218 k1=0.64397 k2=0.0012758 + sky130_fd_pr__esd_pfet_g5v0d10v5_k2_diff_5 k3=-1.584 dvt0=4 dvt1=0.39618 dvt2=-0.05 dvt0w=0 dvt1w=5300000 dvt2w=-0.032 w0=1e-009 k3b=0.24 phin=0 lpe0=0 lpeb=0 vbm=-3 dvtp0=0 dvtp1=0 vsat=150260 + sky130_fd_pr__esd_pfet_g5v0d10v5_vsat_diff_5 ua=2.718e-009 + sky130_fd_pr__esd_pfet_g5v0d10v5_ua_diff_5 ub=1.5031e-018 + sky130_fd_pr__esd_pfet_g5v0d10v5_ub_diff_5 uc=2.5114e-011 rdsw=329.4 prwb=0 prwg=0 wr=1 u0=0.0219 + sky130_fd_pr__esd_pfet_g5v0d10v5_u0_diff_5 a0=0.71809 keta=-0.01188 a1=0 a2=0.5 ags=0.097232 b0=0 b1=0 eu=1.67 rdswmin=0 rdw=0 rdwmin=0 rsw=0 rswmin=0 voff=-0.15351 + sky130_fd_pr__esd_pfet_g5v0d10v5_voff_diff_5 nfactor=1.1792 + sky130_fd_pr__esd_pfet_g5v0d10v5_nfactor_diff_5 up=0.0 ud=0.0 lp=1.0 tvfbsdoff=0.0 tvoff=0 cit=1e-005 cdsc=1e-005 cdscb=-0.00030725687 cdscd=7.8783957e-011 eta0=0.0154 etab=-6.956e-005 dsub=0.10478 voffl=0 minv=0 pclm=0.46878 pdiblc1=0 pdiblc2=0 pdiblcb=-0.5 drout=0.46464 pscbe1=4.24e+009 pscbe2=1e-008 pvag=0 delta=0.01 alpha0=3.561e-006 alpha1=1e-010 beta0=36 fprout=10.125 pdits=1.1249e-012 pditsl=0 pditsd=0 agidl=7.25e-010 bgidl=1.334e+009 cgidl=650 egidl=0.8 aigbacc=0.43 bigbacc=0.054 cigbacc=0.075 nigbacc=1 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=3 aigc=0.43 bigc=0.054 cigc=0.075 nigc=1 aigsd=0.43 bigsd=0.054 cigsd=0.075 dlcig=0 poxedge=1 pigcd=1 ntox=1 toxref=1.175e-008 kt1=-0.538 kt2=0.02 at=0 ute=-1.115 ua1=5.9616e-010 ub1=-2.0736e-018 uc1=-1.3393e-010 kt1l=0 prt=0 xrcrg1=12 xrcrg2=1 rbpb=50 rbpd=50 rbps=50 rbdb=50 rbsb=50 gbmin=1e-012 noia=3.0000000E+40 noib=8.5300000E+24 noic=8.4000000E+07 em=4.1000000E+07 af=1 ef=0.88 kf=0 ntnoi=1 dmcg=0 dmcgt=0 dmdg=0 xgw=0 xgl=0 ngcon=1 diomod=1 njs=1.3632 jss=2.1483e-05 jsws=4.02e-12 xtis=10 bvs=12.69 xjbvs=1 ijthsrev=0.1 ijthsfwd=0.1 tpb=0.001671 tpbsw=0 tpbswg=0 tcj=0.00096 tcjsw=3e-005 tcjswg=0 cgdo=1.9771e-010 / sw_func_tox_hv_ratio cgso=1.9771e-010 / sw_func_tox_hv_ratio cgbo=0 capmod=2 xpart=0 cgsl=1.0005e-011 / sw_func_tox_hv_ratio cgdl=1.0005e-011 / sw_func_tox_hv_ratio cf=1.2e-011 clc=1e-007 cle=0.6 dlc=4.4983e-008 - sw_polycd dwc=sw_activecd vfbcv=-0.1446893 acde=0.401 moin=15.773 noff=4 voffcv=0 ngate=1e+023 lwc=0 llc=0 lwlc=0 wlc=0 wwc=0 wwlc=0 ckappas=0.6 cjs=0.00077547 * sw_func_psd_nw_cj mjs=0.33956 pbs=0.6587 cjsws=9.8717e-011 * sw_func_psd_nw_cj mjsws=0.24676 pbsws=1 cjswgs=1.46e-010 * sw_func_psd_nw_cj mjswgs=0.81 pbswgs=3 type=-1
@end

ends // sky130_fd_pr__esd_pfet_g5v0d10v5
